US05955607
A solution of 0.5 g (1.35 mmol) of 5-[methylsulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanoic acid, 0.25 g (1.5 mmol) of 2-(N-benzyl-N-methylamino)ethanol, 0.31 g (1.5 mmol) of DCC and a spatula tipful of DMAP in 10 ml of methylene chloride is stirred overnight at RT. After filtering off the precipitate, the solution is concentrated and the crude product is purified by chromatography on silica gel using methylene chloride/methanol 97:3, and 0.45 g of 2-(benzylmethylamino)ethyl 5-[methanesulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanoate is obtained.

reactant | 5-[methylsulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanoic acid | 1.35 mmol, 0.5 g | CS(=O)(=O)N(CCCCC(=O)O)C1CC(OC2=CC=C(C=C12)C)(C)C | C18H27NO5S
reactant | 2-(N-benzyl-N-methylamino)ethanol | 1.5 mmol, 0.25 g | C(C1=CC=CC=C1)N(C)CCO | C10H15NO
reactant | DCC | 1.5 mmol, 0.31 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(benzylmethylamino)ethyl 5-[methanesulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanoate | 0.45 g | CS(=O)(=O)N(CCCCC(=O)OCCNCCC1=CC=CC=C1)C1CC(OC2=CC=C(C=C12)C)(C)C | C28H40N2O5S
